US05441969
2-Amino-1-[3-(5-acetamido-1-methyl-4-pyrazolyl)phenyl]benzimidazole was prepared from 3-(2-amino-1-benzimidazolyl)-phenyl-1,3,2-dioxaborinane and 3-acetamido-4-bromo-2-methylpyrazole according to method A. mp 135°-137° C.

reactant | 3-(2-amino-1-benzimidazolyl)-phenyl-1,3,2-dioxaborinane | NC1=NC2=C(N1C=1C=C(C=CC1)B1OCCCO1)C=CC=C2 | C16H16BN3O2
reactant | 3-acetamido-4-bromo-2-methylpyrazole | C(C)(=O)NC=1N(N=CC1Br)C | C6H8BrN3O
product | 2-Amino-1-[3-(5-acetamido-1-methyl-4-pyrazolyl)phenyl]benzimidazole | NC1=NC2=C(N1C1=CC(=CC=C1)C=1C=NN(C1NC(C)=O)C)C=CC=C2 | C19H18N6O
